US07732446B1
A solution of 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (1.04 g, 3.59 mmol) and 0.750 mL (1.5 eq) of TEA in 30 mL of THF was stirred at room temperature. A solution of Boc anhydride (940 mg, 4.3 mmol) in 10 mL of diethyl ether was added and the reaction was stirred under nitrogen for 15 hours. The reaction was diluted with 50 mL of EtOAc and then washed with 50 mL of water. The aqueous phase was extracted with EtOAc (2×20 mL) and the combined organics were washed with saturated sodium bicarbonate, and then with brine. The organic phase was dried with magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography eluting with 3% MeOH in DCM to give 1.08 g (77%) of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester. H1-NMR (CDCl3): δ 9.01 (s, 1H), 8.06 (s, 1H), 6.78 (s, 1H), 6.59 (s, 1H), 5.07 (s, 2H), 4.45 (q, 2H, J=7.1), 3.98 (m, 6H), 1.50 (m, 12H); MS: APCI (M+H) calc'd for C20H26N2O6+H 391.4; found 391.0.

reactant | 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 3.59 mmol, 1.04 g | C(C)OC(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CN | C15H18N2O4
reactant | Boc anhydride | 4.3 mmol, 940 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 1.08 g, 77% | C(C)OC(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C20H26N2O6
